US05234946
90 mg of 1-(3-hydroxymethylphenyl)imidazole was dissolved in 10 ml of chloroform, and 100 microliters of thionyl chloride was added. The mixture was stirred at room temperature for 3 hours. The solvent was evaporated under reduced pressure. The residue was dissolved in a mixture of ethyl ether and water. The organic layer was separated, washed successively with a 5% aqueous solution of sodium hydrogen carbonate and then with water, and dried over anhydrous magnesium sulfate. The desiccant was separated by filtration and then ethyl ether was evaporated to give 1-(3-chloromethylphenyl)imidazole as a pale yellow oily product.

reactant | 1-(3-hydroxymethylphenyl)imidazole | 90 mg | OCC=1C=C(C=CC1)N1C=NC=C1 | C10H10N2O
reactant | thionyl chloride | 100 microliters | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-chloromethylphenyl)imidazole | ClCC=1C=C(C=CC1)N1C=NC=C1 | C10H9ClN2
